US04182758
Formic acid (300 mg.) was added dropwise to acetic anhydride (330 mg.) with stirring and the mixture was stirred for half an hour. To this solution were added 2-hydroxy-3-(N-hydroxyamino)propylphosphonic acid (430 mg.) and then formic acid (0.5 ml.), and the mixture was stirred for 1.5 hours at ambient temperature and then evaporated to dryness under reduced pressure. The oily residue was dissolved in methanol (10 ml.) and adjusted to pH 6-7 with conc. aqueous ammonium hydroxide solution to give oily precipitates which was collected by decantation and pulverized by triturating with methanol to give monoammonium salt of 3-(N-formyl-N-hydroxyamino)-2-hydroxypropylphosphonic acid (80 mg.).

reactant | acetic anhydride | 330 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-hydroxy-3-(N-hydroxyamino)propylphosphonic acid | 430 mg | OC(CP(O)(O)=O)CNO | C3H10NO5P
solvent | formic acid | 0.5 ml | C(=O)O | CH2O2
solvent | Formic acid | 300 mg | C(=O)O | CH2O2
product | 3-(N-formyl-N-hydroxyamino)-2-hydroxypropylphosphonic acid | 80 mg | C(=O)N(O)CC(CP(O)(O)=O)O | C4H10NO6P
